US07326791B2
4-(4-acetylpiperazin-1-ylcarbonyl)-3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)benzamide
Prepared analogously to Example 1d from 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide, N-acetylpiperazine, TBTU, and triethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 3.13 minutes; C22H21Cl2N5O3 (474.35); mass spectrum: (M+H)+=474.2.

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)O | C16H11Cl2N3O3
reactant | N-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(4-acetylpiperazin-1-ylcarbonyl)-3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)benzamide | C(C)(=O)N1CCN(CC1)C(=O)C1=C(C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C22H21Cl2N5O3
